US08871792B2
(R)-3-{N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-[3-(2-fluorophenyl)isoxazole-5-carbonyl]hydrazino}-2-hydroxypropionic Acid 2-methoxyethyl Ester
Ethane, 1-bromo-2-methoxy (5.7 mL, 0.1 mmol) was added to a mixture of (R)-3-{N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-[3-(2-fluorophenyl)isoxazole-5-carbonyl]hydrazino}-2-hydroxypropionic acid (20.0 mg, 38 μmol) and Et3N (13.2 μL, 0.1 mmol) in acetone (1.0 mL, 14 mmol), and resulting mixture was stirred at 50° C. overnight. The mixture was concentrated, and the residue was dissolved in AcOH (1.5 mL), filtered, and purified by reverse phase preparative HPLC to yield the title compound (10.7 mg, purity 95.7%) as a TFA salt. MS m/z [M+H]+ calc'd for C29H26ClF2N3O6, 586.15. found 585.8.

reactant | Ethane | CC | C2H6
reactant | (R)-3-{N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-[3-(2-fluorophenyl)isoxazole-5-carbonyl]hydrazino}-2-hydroxypropionic acid | 38 μmol, 20.0 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)CN(NC(=O)C1=CC(=NO1)C1=C(C=CC=C1)F)C[C@H](C(=O)O)O)F | C26H20ClF2N3O5
reactant | Et3N | 0.1 mmol, 13.2 μL | CCN(CC)CC | C6H15N
reactant | acetone | 14 mmol, 1.0 mL | CC(=O)C | C3H6O
product | (R)-3-{N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-[3-(2-fluorophenyl)isoxazole-5-carbonyl]hydrazino}-2-hydroxypropionic Acid 2-methoxyethyl Ester | 10.7 mg | COCCOC([C@@H](CN(NC(=O)C1=CC(=NO1)C1=C(C=CC=C1)F)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O | C29H26ClF2N3O6
